US06610701B2
A solution of 2-pyrazol-1-yl-benzoic acid (50 mg, 0.26 mmol), ammonium chloride (28 mg, 0.52 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (100 mg, 0.52 mmol), 1-hydroxy-7-azabenzotriazole (71 mg, 0.52 mmol) and diisopropylethylamine (0.17 ml, 1.0 mmol) in N,N-dimethylformamide (0.75 ml) was stirred at room temperature for 5 h. Water was added and the reaction mixture was extracted with ethyl acetate. Drying and solvent evaporation gave 2-pyrazol-1-yl-benzamide; 1H NMR (CD3OD, 400 MHz) δ7.92 (d, 1H, J=2.4 Hz), 7.70-7.48 (m, 5H), 6.49 (m, 1H).

reactant | 2-pyrazol-1-yl-benzoic acid | 0.26 mmol, 50 mg | N1(N=CC=C1)C1=C(C(=O)O)C=CC=C1 | C10H8N2O2
reactant | ammonium chloride | 0.52 mmol, 28 mg | [Cl-].[NH4+]
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.52 mmol, 100 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.52 mmol, 71 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | diisopropylethylamine | 1.0 mmol, 0.17 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 0.75 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-pyrazol-1-yl-benzamide | N1(N=CC=C1)C1=C(C(=O)N)C=CC=C1 | C10H9N3O
